Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Latex / Penicillins
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
Intubation
Central venous catheterization
 
History of Present Illness:
Ms. ___ is a ___ year-old woman with history of advanced 
interstitial lung disease, likely NSIP, chronic diastolic CHF, 
DM, and chronic pain s/p MVA who presents with respiratory 
failure. Patient unable to provide history, so HPI gathered from 
OMR and sign-out. Patient was presumably in USOH on home O2 and 
began to feel unwell over the past 7 days, with increased home 
O2 requirement, fever, cough and sputum production. She saw her 
PCP who treated her for presumed asthma exacerbation and started 
the patient on a steroid taper (unclear dose). The patient did 
not improve with this treatment regimen. At home, patient's 
respiratory distress worsened and she called EMS who took her to 
OSH ED. At OSH she was found to be hypoxic to 60-70's on RA, she 
was treated with 750 mg levaquin, 125 mg solumedrol, 4 mg 
morphine, duonebs and 12.5 mg benadryl, and transfered to ___ 
for further care.  
.  
In the ED, initial vs were: T AFeb P ___ BP 118/69 R 30 O2 sat. 
85% 7L. Patient was given etomidate, succinylcholine and 
vecuronium for intubation and sedated with propofol. She was ___ 
given 1g IV ceftriaxone, 100 ucg fentanyl, and albuterol nebs. 
Even on the ventilator, her O2 Sats were still in the 80's with 
ABG ___ on 100% FiO2. After optimization of her 
ventilator settings with low RR and high Vt, the patient's O2 
sats improved to 90's. On the floor, the patient was intbuated 
and sedated. IV access was challenging to obtain and a central 
line was placed. Her vitals were HR 121 BP 128/59 RR 20 O2 Sat 
98% on 100% FiO2.  
.  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath, or wheezing. 
Denies chest pain, chest pressure, palpitations, or weakness. 
Denies nausea, vomiting, diarrhea, constipation, abdominal pain, 
or changes in bowel habits. Denies dysuria, frequency, or 
urgency. Denies arthralgias or myalgias. Denies rashes or skin 
changes.  
 
Past Medical History:
Non-specific interstitial pneumonitis (possibly idiopathic 
pulmonary hemosiderosis?)  
- s/p lung biopsy by VATS ___ at ___, lost to follow-up until 
___  
- followed by ___, perhaps started prednisone course  
___  
- Home O2 requirement of ~4L  
- ___ PFTs: DLCO 40% predicted, TLC 58% predicted, FEV1 54%  

- Overall consistent with restrictive lung disease  
CHF with recent hospitalization (per OMR)  
Diabetes  
Depression  
Chronic pain status post MVA  
?Cardiomegaly  
TTE with ?rheumatic MV disease  
CAD s/p MI (normal MIBI in ___  
Cervical dysplasia  
Colonic polyps s/p multiple polypectomies  
Hiatal hernia  
Migraines  

PSH:  
TAH-BSO  
Cervical cone bx  
Mediastinoscopy & L VATS ___  
 
Social History:
___
Family History:
She has two children. She has several relatives who have had 
lung problems and has died from complications related lung 
disease. Her mother had COPD, died of respiratory failure, 
father with cardiovascular disease. She had a sister  
who died after a lung biopsy was performed. She states that 
several of her family members may have had asbestos exposure 
including the patient.  

 
Physical Exam:
ON ADMISSION:
Vitals: AFeb HR 121 BP 128/59 RR 20 O2 Sat 98% on 100% FiO2  
General: Intubated, mildly sedated, in mild distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, difficult to assess JVP due to short, thick neck  
Lungs: Tubular, coarse breath sounds anteriorly with occasional 
expiratory squeaks  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

ON DISCHARGE:
Vitals: 97.5 HR 58 BP 100/66 RR 20 O2 Sat 98% on 6L NC  
General: NAD, comfortable
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: Supple, no JVP  
Lungs: Symmetric chest rise, no increased resp effort, dew 
scattered crackles.  No wheezes/rales/rhonchi.    
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses,  no clubbing, cyanosis.  

 
Pertinent Results:
ADMISSION LABS:
___ 11:40PM   WBC-10.6 RBC-4.06* HGB-11.3* HCT-32.9* 
MCV-81* MCH-27.9 MCHC-34.5 RDW-15.1
___ 11:40PM   NEUTS-89.4* LYMPHS-7.4* MONOS-2.3 EOS-0.5 
BASOS-0.3
___ 11:40PM   PLT COUNT-198
___ 11:40PM   GLUCOSE-227* UREA N-10 CREAT-0.9 SODIUM-133 
POTASSIUM-4.1 CHLORIDE-98 TOTAL CO2-21* ANION GAP-18
___ 11:54PM   LACTATE-2.3* K+-4.0
___ 11:40PM   ___ PTT-35.6* ___
___ 11:40PM   proBNP-1023*
___ 11:40PM   cTropnT-<0.01

MICRO:
___ BLOOD CULTURE X2 - NGTD (PENDING)

___ 10:30 am Influenza A/B by ___ 
  DIRECT INFLUENZA A ANTIGEN TEST (Final ___: 
      Negative for Influenza A. 
   DIRECT INFLUENZA B ANTIGEN TEST (Final ___: 
      Negative for Influenza B. 

___ 11:07 am SPUTUM      Source: Endotracheal. 
   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___: 
      Commensal Respiratory Flora Absent. 
      YEAST.    RARE GROWTH. 

___ 10:37 am URINE      Source: Catheter. 
   URINE CULTURE (Final ___:    NO GROWTH.

___ 12:05 pm SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal. 

   GRAM STAIN (Final ___: 
      <10 PMNs and <10 epithelial cells/100X field. 
      NO MICROORGANISMS SEEN. 
      QUALITY OF SPECIMEN CANNOT BE ASSESSED. 

   RESPIRATORY CULTURE (Preliminary): 
      Commensal Respiratory Flora Absent. 
      YEAST.    SPARSE GROWTH. 

___ BLOOD CULTURE - NGTD (PENDING)

STUDIES:
___ CXR: Interval recurrence or progression of diffuse 
alveolar 
opacification in setting of known chronic interstitial lung 
disease (NSIP/ILD leading diagnostic considerations per OMR). 
This could be pulmonary edema or widespread pneumonia or 
hemorrhage. Given the course consideration should also be given 
to drug or toxin exposure exacerbating a preexisting reaction. 

___ TTE:  Suboptimal image quality. Right ventricular cavity 
enlargement with free wall hypokinesis. Normal left ventricular 
cavity size and regional/global systolic function. Mild mitral 
stenosis.
Compared with the prior study (images reviewed) of ___, 
the right ventricular findings are new and suggestive of 
myocardial contusion. The severity of mitral stenosis has 
increased. The severity of mitral regurgitation has declined 
(may be due to tachycardia and suboptimal image quality).

___ EKG: Sinus rhythm and increase in rate as compared to 
the previous tracing of ___. There is right axis deviation 
and low limb lead voltage. There is now ST segment elevation in 
leads V1-V3 with biphasic to inverted T waves in leads V1-V5, 
more prominent as compared to the previous tracing of ___. 
The rate is increased. These findings are consistent with active 
anterolateral ischemic process. Followup and clinical 
correlation are suggested.  

CTA Wet read ___:
No PE. Some consolidations/septal thickening suggestive of fluid 
vs infection. Enlarged pulm artery suggestive of pulmonary HTN. 

 
Brief Hospital Course:
Ms. ___ is a ___ year-old woman with history of advanced 
interstitial lung disease, likely NSIP, CHF, DM, and chronic 
pain s/p MVA who presents with respiratory failure. 

ICU Course:
Patient was intubated in the ED secondary to respiratory 
distress and oxygen saturations in the ___. She was admitted to 
the MICU were a CVL was placed. She was treated initially 
empirically with levofloxacin and broadened to 
vancomycin/cefepime/azithromycin for empiric coverage of HCAP. 
She was also given IV steroids, then transitioned to prednisone 
40 mg daily, for an ILD flare per her outpatient pulmonologist, 
Dr. ___. Influenza swab was sent and returned negative. Sputum 
cultures grew commensal respiratory flora and yeast. She was 
also diuresed with IV lasix given an elevated BNP of 1023 over 
her baseline of 363 from ___ and overload on CXR. IV Lasix 
40mg IV was effective and diuresis. Echocardiogram showed 
findings of RV free wall hypokinesis c/w contusion related to 
MVA as well as mild MS ___ MR. ___ cardiology recommended 
further evaluation with TEE as this valvular disease may be 
contributing to her heart failure. She was extubated on ___ 
with return to her baseline home oxygen requirement. Just prior 
to transfer to the floor patient was started on morphine 
60mg/30mg/60mg PO TID for her chronic fibromyalgia neck and 
shoulder pain.

*ACTIVE ISSUES*
# Acute on chronic diastolic heart failure:  The patient is on 
daily lasix 60 mg at home and has a history of chronic diastolic 
heart failure secondary to rheumatic heart disease (echo in ___ 
showed EF>55%, mild-mod MV regurg).  Her dyspnea was thought to 
be due to volume retention in the setting of starting steroids 
for baseline lung disease.  In the MICU she was started on IV 
lasix 40 mg with good response.  On the floor her lung exam was 
notable for bibasilar crackles and high-pitched inspiratory 
squeaks, as well as bipedal pitting edema.  She was therefore 
continued on IV lasix with resolution of dyspnea and improved 
lung exam.  Her oxgen requirement was lowered to her baseline of 
6L NC.  A repeat CXR on ___ showed substantial improvement in 
pulmonary edema compared to the prior study of ___.  To 
evaluate the role of mitral valve dysfunction on CHF 
exacerbation, she also underwent a repeat echo given poor window 
of bedside TTE in the MICU.  The echo was largely unchanged from 
her prior in ___, with preserved EF 70% and mild resting left 
ventricular outflow tract obstruction.  Rheumatic mitral valve 
deformity was noted along with mild MV stenosis.  Cardiology 
recommended starting the patient on low-dose metoprolol due to 
concern for CHF exacerbation from tachycardia/decreased filling 
time in the setting of the patient's MR/MS. ___ tolerated 
metoprolol succinate 12.5mg daily well. The patient was 
transitioned to po lasix 40 mg, and on this low dose continued 
to produce output ___ daily.  She appeared consistently 
euvolemic on this dose.  Her Cr remained stable throughout this 
period.  On discharge her weight was 100.2 kg, compared to her 
baseline weight of 101.2 kg (___).  The CTA on day of 
discharge revealed signs of some fluid overload and decision was 
made to send her home on 60mg daily (her usual home dose) and to 
likely taper down to 40mg daily if appropriate when she sees her 
primary care physician. She was discharged on lasix 60mg daily 
and metoprolol 12.5 mg daily. Pt was satting in the mid-high ___ 
on 6L at time of discharge.

# ILD: The patient has advanced interstitial lung disease with 
tissue diagnosis of fibrotic NSIP in ___. She is on baseline 6L 
O2 at home and is followed closely by Dr. ___.  While 
inhouse it was thought that her lung disease was contributing to 
her dyspnea and acute presentation.  She was therefore continued 
on prednisone 40 mg po daily.  The patient was seen by Dr. ___ 
___ recommended a slow steroid taper over ___ months with 
possible outpatient transition to azathioprine. Given her 
continuation of steroids, she was started on a PPI. She was also 
started on PCP prophylaxis with bactrim and discharged on 
Cal/VitD. 

# Diabetes mellitus:  The patient had poor glycemic control 
during her stay, with post-meal FSBG levels consistently >400.  
A HgA1c was 9.2.  Her lantus was increased to 24 from baseline 
20 with good effect.  She was started on a novolog sliding scale 
with frequent adjustment.  ___ saw the patient while inhouse 
for elevated sugars. The decision was made to STOP metformin 
given her CHF, and the patient was instructed not to resume this 
outpatient.  She was discharged on lantus 24 U qhs and novolog 
sliding scale (Starting breakfast and lunch at 12 for BG 
100-150, increase by 2; dinner at 8 Units for BG 100-150, 
increase by 2; bedtime at 4 for BG 151-200, increase by 2).

# Chronic pain s/p MVA:  Baseline chronic back pain was 
controlled with her home morphine dose 60mg/30mg/60mg PO TID 
which was started in the MICU.  She had adequate pain control 
during her hospitalization. 

*INACTIVE ISSUES:*
# Anemia:  The patient is chronically anemic and remained so 
with Hcts ranging from 27.9-31.9.  This is consistent with her 
baseline. 

# Hypertension: Patient's aldactone was held given diuresis and 
relatively low BPs on the floor.  Because she was started on 
metoprolol, her aldactone was discontinued.  

# Depression/anxiety:  The patient was continued on her home 
doses of sertraline 200 mg daily and diazepam 5 mg q6 prn.

Labs/Studies Pending at Discharge:
- CTA final read (___)

Transitional Care Issues:
- Patient will need electrolytes checked on ___.  
___ has been arranged and PCP ___.
-Aldactone was held during admission. ___ be resumed outpatient 
if patient tolerates metoprolol.
-Started metoprolol 12.5mg succinate daily. Reccomend continued 
monitoring outpatient as she might benefit from higher dose.

 
Medications on Admission:
Diazepam 5mg q6-8h PRN anxiety  
Lasix 60mg daily  
Lantus 20u daily  
Metformin 1000mg BID  
Morphine 60/30/60 mg PO ___  
Oxycodone 5mg PO BID (between morphine doses)  
Sertraline 200mg daily  
Diovan 80mg daily  
Various vitamins: D2, B6, B12, fish oil  
(per ___ records, additionally)  
Fioricet 2 tablets q4h PRN severe HA  
Spironolactone 25mg daily  
Hydroxyzine 50mg ___  

 
Discharge Medications:
1. sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. prednisone 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily): 
Continue until you see Dr. ___.
Disp:*60 Tablet(s)* Refills:*1*
3. valsartan 80 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
5. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation every ___ hours as needed for wheeze.
Disp:*1 inh* Refills:*0*
6. sulfamethoxazole-trimethoprim 400-80 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
7. dextromethorphan-guaifenesin ___ mg/5 mL Liquid Sig: Five 
(5) ML PO Q6H (every 6 hours) as needed for cough.
Disp:*40 ML(s)* Refills:*0*
8. metoprolol succinate 25 mg Tablet Extended Release 24 hr Sig: 
0.5 Tablet Extended Release 24 hr PO DAILY (Daily).
Disp:*30 Tablet Extended Release 24 hr(s)* Refills:*2*
9. morphine 30 mg Tablet Extended Release Sig: Two (2) Tablet 
Extended Release PO Q12H (every 12 hours) as needed for 
neck/shoulder pain.  
10. oxycodone 5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for pain.  
11. morphine 30 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO NOON (At Noon).  
12. diazepam 5 mg Tablet Sig: One (1) Tablet PO every ___ hours 
as needed for anxiety.  
13. Outpatient Lab Work
Please draw chem 7 on ___ and fax ___ attn: Dr 
___.
14. insulin glargine 100 unit/mL Solution Sig: ___ (24)  
Subcutaneous at bedtime.
Disp:*1 month's supply* Refills:*2*
15. insulin Novolog  Sig: One (1)   four times a day: Follow 
Sliding Scale.
Disp:*1 month's supply* Refills:*2*
16. Insulin Syringe MicroFine 0.3 mL 28 x ___  Syringe Sig: One 
(1)  Miscellaneous four times a day.
Disp:*1 month's supply* Refills:*2*
17. Lasix 40 mg Tablet Sig: 1 and ___ Tablet PO once a day: take 
total of 60mg (1.5 tablets) a day.
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses:  
Acute on Chronic Diastolic Congestive Heart Failure
Interstitial Lung Disease
Congestive Heart Failure

Secondary diagnoses:
Diabetes Mellitus
Coronary Artery Disease
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for shortness of breath. We 
believe this was most likely due to extra fluid in your lungs. 
When you first arrived to our Emergency Department, a tube was 
placed in your throat to help you breathe (intubation).  You 
were admitted to the intensive care unit, where you were given a 
medication (Lasix) to help decrease the fluid in your lungs.  
You were treated with steroids to decrease possible inflammation 
in your lungs.  You also received antibiotics to cover the 
bacteria that cause lung infections. You responded well to these 
treatments and your breathing tube was eventually removed.

In the ICU, you had an ultrasound of your heart (Echo) which 
showed slightly worsened disease of one of your heart valves 
(from rheumatic heart disease).  Your heart function is 
otherwise unchanged from your last echo in ___.  

You were then transferred to the medicine floor, where you 
completed the course of antibiotics. You were continued on 
steroids.  Your IV Lasix was transitioned to Lasix by mouth, and 
you continued to put out a considerable amount of extra fluid 
which helped your oxygenation.  Your oxygen requirements 
decreased to your home oxygen of 6 Liters.  You were able to 
ambulate on your own without issue. You will go home on lasix 
60mg daily. This dose might be lowered to 40mg daily after you 
see your primary care doctor next week if she feels it is 
appropriate.

Your sugars were found to be elevated, especially after starting 
prednisone. We had diabetes specialists see you who helped to 
titrate your insulin. You will go home on Insulin Sliding Scale 
regimen that was reviewed with you in the hospital. Please 
follow the attached Sliding Scale regimen.

On the day of discharge you had some chest pain with breathing.  
We obtained a CT scan of your lungs and it showed there is no 
clot in your lungs, this is good news.

Remember to check daily weights. If your weight goes up by 3 
pounds, please call Dr ___ might need a higher dose of 
your lasix. This is VERY important. If you can not get through 
to Dr ___ call your primary care doctor.

The following changes were made to your medications:
STOP Metformin. Do not take this medication any more. It should 
not be taken by patients with heart failure.
STOP Aldactone. You may resume this if your PCP agrees and if 
your blood pressure tolerates. We started you on metoprolol and 
decided to stop the aldactone for now.
START insulin sliding scale with Novolog, see the attached form 
for an explanation.
CHANGED lantus from 20->24 U every evening
START: Bactrim, take 1 tab daily to prevent pneumonia while on 
steroids.
START: Pantoprazole 40mg daily, take this while on steroids
START Prednisone 40 mg daily.  You will be on this medication 
until further discussion with your pulmonologist Dr. ___.   
START Metoprolol 12.5mg daily. Please take ___ pill of the 25mg 
daily. This will protect your heart from future heart failure 
episodes.
CONTINUE: Lasix 60mg daily to help remove fluid from your lungs

No other medication changes were made.  Please continue to take 
them as you have been doing.

Follow-up appointments have been made for you.  Please see the 
details below.
 
Followup Instructions:
___